* Z:\home\domh\work\UAS\esd1\proj\git\CarreraAI\Hardware\baseboard\sim\Supply\SupplySim_altpart_protected.asc
XU1 N022 0 N029 NC_01 N024 N030 N033 N032 NC_02 0 N026 N028 N022 NC_03 N023 N027 Bat_Out N019 N015 V_OUT N021 N013 V_DCDC_OUT VC_ITH N014 V_DCDC_IN V_In LTC4000 period=19
C_IIMON N029 0 10n
R_Is V_DCDC_IN V_In 8.2m
C_IBMON N030 0 10n
R_Cs V_OUT N015 5m
C_L V_OUT 0 100µ
R§CHK_FLT N022 N026 100K
R§CHK_CHRG N022 N028 100K
R_CX N033 0 1k
R_CL N032 0 1k
C_BIAS 0 N022 1µ
R_BFB2 N023 N027 27k
R_BFB1 Bat_Out N027 68k
V_BAT N031 0 3.7
C1 Bat_Out N031 10m Rser=1m ic=0.5V
R_OFB2 N021 N023 100k
R_OFB1 V_OUT N021 270k
R1 V_OUT N013 10Meg
C2 VC_ITH 0 220p
R_C N011 VC_ITH 16k
C_C N011 N014 47n
XU2 V_DCDC_OUT N001 MP_01 MP_02 NC_04 0 NC_05 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 MP_10 MP_11 MP_12 MP_13 N001 NC_06 0 V_DCDC_IN N006 N003 N004 N002 NC_07 NC_08 N007 VC_ITH N008 N005 LTC3891
R_SENSE V_DCDC_OUT N005 15m
L1 N005 N004 10µ
R_FB1 V_DCDC_OUT N008 120k
R_FB2 N008 0 27k
M3 V_DCDC_IN N002 N004 N004 RJK0651DPB
C_BOOST N004 N003 .1µ
D1 N001 N003 D
M4 N004 N006 0 0 RJK0651DPB
C4 N001 0 4.7µ
C_SS N007 0 .001µ
R2 N012 0 1.5
V1 N010 0 PWL repeat forever (file=PWLlong.txt) endrepeat
D2 N009 V_In MBRS140
R3 N009 N010 100m
C3 V_In 0 10µ
Cin_DCDC 0 V_DCDC_IN 1µ
Cout_DCDC V_DCDC_OUT 0 100µ Rser=5m
XU3 0 0 N018 N016 N020 N018 V_OUT N017 LTC1540
R4 Bat_Out N016 56Meg
R5 N016 0 33Meg
M5 N012 N017 V_OUT V_OUT Si4427DY
R6 N018 P001 430
C5 P001 0 1µ
R7 N020 0 2.3Meg
R8 N018 N020 25k
XU4 V_OUT N013 V_DCDC_OUT irf7328
XU5 Bat_Out N019 N015 irf7328
S1 N020 0 0 N025 SW
V2 N025 0 PULSE(0 5 0 10u 10u 120u)
.model D D
.lib C:\users\domh\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\domh\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 50m 0 2e-6 startup
* Batterie
* Spannungsversorgung
* LTC4000
.lib LTC.lib
.lib LTC3891.sub
.lib LTC4000.sub
.lib Z:\home\domh\work\UAS\esd1\proj\git\CarreraAI\Hardware\lib\spice\fet\irf7328.spi
.backanno
.end
